US08624040B2
Step 2: methyl 5-[(2-nitrophenyl)sulfonyl]-5,6-dihydro-4H-thieno[2,3-c]pyrrole-2-carboxylate
To a solution of methyl 4,5-bis(chloromethyl)thiophene-2-carboxylate (4.106 g, 17.17 mmol) and 2-nitrobenzenesulfonamide (3.825 g, 18.92 mmol) in acetone (40 mL) was added 2.5 M of potassium carbonate in water (20 mL, 50 mmol). The resulting biphasic mixture was stirred at room temperature for 1 hour then further heated at 45° C. overnight resulting in formation of precipitate. The reaction mixture was cooled to room temperature and the precipitate was collected by vacuum filtration. The solid obtained was washed with water followed by cold methanol and dried under vacuum to afford an off white solid (3.352 g, 53%). LCMS (FA) ES+ 369; 1H NMR (400 MHz, DMSO) δ 8.02 (ddd, J=7.8, 4.9, 1.4 Hz, 2H), 7.90 (td, J=7.7, 1.5 Hz, 1H), 7.84 (td, J=7.7, 1.4 Hz, 1H), 7.63 (s, 1H), 4.79 (t, J=2.9 Hz, 2H), 4.60 (t, J=2.9 Hz, 2H), 3.80 (s, 3H).

reactant | methyl 4,5-bis(chloromethyl)thiophene-2-carboxylate | 17.17 mmol, 4.106 g | ClCC=1C=C(SC1CCl)C(=O)OC | C8H8Cl2O2S
reactant | 2-nitrobenzenesulfonamide | 18.92 mmol, 3.825 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N | C6H6N2O4S
reactant | potassium carbonate | 2.5 M | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 mmol, 20 mL | O | H2O
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | methyl 5-[(2-nitrophenyl)sulfonyl]-5,6-dihydro-4H-thieno[2,3-c]pyrrole-2-carboxylate | 3.352 g, 53% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1CC2=C(C1)C=C(S2)C(=O)OC | C14H12N2O6S2
